US09290460B2
8-Methyl-3-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione
The compound was prepared from 8-methyl-3-(3-carboxybenzyl)quinazoline-2,4(1H,3H)-dione (prepared from 8-methylquinazoline-2,4(1H,3H)-dione and methyl 3-(bromomethyl)benzoate using a procedure similar to those used for Examples 222 and 223), and 2-(piperazin-1-yl)pyrimidine using a procedure similar to those described for the synthesis of compound of Example 3. 1H NMR (DMSO-d6): 10.81 (s, 1H), 8.36 (d, J=4.5 Hz, 2H), 7.83 (d, J=7.5 Hz, 1H), 7.52 (d, J=7.2 Hz, 1H), 7.45-7.30 (m, 4H), 7.13 (t, J=7.7 Hz, 1H), 6.67 (t, J=4.7 Hz, 1H), 5.15 (s, 2H), 3.92-3.46 (m, 8H), 2.36 (s, 3H). MS: m/z 457.3 [M+H]+.

reactant | 8-methyl-3-(3-carboxybenzyl)quinazoline-2,4(1H,3H)-dione | CC=1C=CC=C2C(N(C(NC12)=O)CC1=CC(=CC=C1)C(=O)O)=O | C17H14N2O4
reactant | 8-methylquinazoline-2,4(1H,3H)-dione | CC=1C=CC=C2C(NC(NC12)=O)=O | C9H8N2O2
reactant | methyl 3-(bromomethyl)benzoate | BrCC=1C=C(C(=O)OC)C=CC1 | C9H9BrO2
reactant | 2-(piperazin-1-yl)pyrimidine | N1(CCNCC1)C1=NC=CC=N1 | C8H12N4
product | 8-Methyl-3-(3-(4-(pyrimidin-2-yl)piperazine-1-carbonyl)benzyl)quinazoline-2,4(1H,3H)-dione | CC=1C=CC=C2C(N(C(NC12)=O)CC1=CC(=CC=C1)C(=O)N1CCN(CC1)C1=NC=CC=N1)=O | C25H24N6O3
